US07423150B2
To a solution of palladium acetate (0.1 eq), triphenylphosphine (0.2 eq), lithium chloride (1.0 eq) in THF were sequentially added 2-(2-fluoro-5-nitrophenyl) propanal (1.1 eq) in THF, allyl alcohol (1.0 eq), triethylamine (1.2 eq) and triethylborane (2.4 eq) under nitrogen at room temperature. Solution was allowed to stir for 2 h. Mixture was diluted with saturated solution of sodium bicarbonate, extracted with ethyl acetate. Organics were washed with brine, dried with sodium sulfate and concentrated. Crude product was purified using flash chromatography (85% Hex: 15% EtoAc) on silica to afford 2-(2-fluoro-5-nitrophenyl)-2-methylpent-4-enal.

reactant | triphenylphosphine | 0.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithium chloride | 1.0 eq | [Cl-].[Li+]
reactant | 2-(2-fluoro-5-nitrophenyl) propanal | 1.1 eq | FC1=C(C=C(C=C1)[N+](=O)[O-])C(C=O)C | C9H8FNO3
reactant | allyl alcohol | 1.0 eq | C(C=C)O | C3H6O
reactant | triethylamine | 1.2 eq | C(C)N(CC)CC | C6H15N
reactant | triethylborane | 2.4 eq | C(C)B(CC)CC | C6H15B
solvent | THF | C1CCOC1 | C4H8O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | palladium acetate | 0.1 eq | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(2-fluoro-5-nitrophenyl)-2-methylpent-4-enal | FC1=C(C=C(C=C1)[N+](=O)[O-])C(C=O)(CC=C)C | C12H12FNO3
